US09062028B2
Step B. 1-(5-Bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylic acid
A mixture of methyl 1-(5-bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylate (500 mg, 1.478 mmol) and LiOH (1.478 mL, 5.91 mmol) in 1,4-dioxane (5 mL) was stirred at room temperature for 2 d, and then adjusted to pH 1-3 with 3 N HCl. The resulting mixture was extracted with ethyl acetate (3×15 ml). The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound (0.37 g, 37%).

reactant | methyl 1-(5-bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylate | 1.478 mmol, 500 mg | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)C(=O)OC | C15H16BrNO3
reactant | LiOH | 5.91 mmol, 1.478 mL | [Li+].[OH-]
reactant | HCl | 3 N | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(5-Bromo-1,2,3,4-tetrahydroquinoline-1-carbonyl)cyclopropanecarboxylic acid | 0.37 g, 37% | BrC1=C2CCCN(C2=CC=C1)C(=O)C1(CC1)C(=O)O | C14H14BrNO3
